US08877815B2
To a solution of 1-(2-chloroallyl)cyclopentanecarboxylic acid (50 mg, 0.27 mmol) in DMF (1.2 mL) was added EDC.HCl (51 mg, 0.27 mmol), HOAt (29 mg, 0.21 mmol) and triethylamine (0.04 mL, 0.27 mmol). To the mixture stirred at room temperature was added (S)-2-amino-3-(biphenyl-4-yl)-N-methylpropanamide TFA salt (45 mg, 0.18 mmol). The mixture was stirred at room temperature for 18 hours. The mixture was extracted with EtOAc, and the organic layer was washed with water (8 times), brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by TLC preparation plates using 70% EtOAc/heptane to give (S)—N-(3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide (38 mg). HPLC retention time=1.69 minutes (condition B); MS (m+1)=425.0; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.34-1.64 (m, 6H), 1.79-2.02 (m, 2H), 2.59 (d, J=5.8 Hz, 2H), 2.66 (d, J=4.9 Hz, 3H), 3.05 (d, J=7.3 Hz, 2H), 4.66 (q, J=7.5 Hz, 1H), 4.95 (s, 1H), 5.05 (s, 1H), 6.28-6.35 (m, 1H), 6.37 (d, J=7.7 Hz, 1H), 7.20 (d, J=8.2 Hz, 2H), 7.23-7.30 (m, 1H), 7.34 (t, J=7.5 Hz, 2H), 7.45 (dd, J=14.5, 7.8 Hz, 4H).

reactant | 1-(2-chloroallyl)cyclopentanecarboxylic acid | 0.27 mmol, 50 mg | ClC(CC1(CCCC1)C(=O)O)=C | C9H13ClO2
reactant | EDC.HCl | 0.27 mmol, 51 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 0.21 mmol, 29 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 0.27 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-amino-3-(biphenyl-4-yl)-N-methylpropanamide TFA salt | 0.18 mmol, 45 mg | OC(=O)C(F)(F)F.N[C@H](C(=O)NC)CC1=CC=C(C=C1)C1=CC=CC=C1
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | (S)—N-(3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide | 38 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)NC)NC(=O)C1(CCCC1)CC(=C)Cl)C1=CC=CC=C1 | C25H29ClN2O2
